US06770637B2
i) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 180 mg (0.711 mmol) [6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-methyl-amine in 7 ml dry tetrahydrofuran 0.86 ml of a 0.91 M solution (0.78 mmol) of potassium hexamethyldisilazide in tetrahydrofuran was added at room temperature under an atmosphere of argon. After 45 min 295 mg (0.924 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride were added. The reaction mixture was stirred at room temperature for 3 h. Quenching with water was followed by dilution with tert-butyl methyl ether and washing with 2 M aqueous sodium carbonate solution and brine. The combined aqueous layers were extracted with two portions of tert-butyl methyl ether. The combined organic extracts were dried with sodium sulfate and concentrated. Flash chromatography gave 254 mg (67%) of the title compound as a light yellow solid.

reactant | [6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-methyl-amine | 0.711 mmol, 180 mg | ClC1=CC(=C(C=N1)NC)C1=C(C=CC=C1)Cl | C12H10Cl2N2
reactant | potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 0.924 mmol, 295 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 254 mg, 67% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)Cl)Cl)(C)C)(F)F | C24H18Cl2F6N2O
